US05459270
Through a solution of 2-amino-3,3-diphenylpropanoic acid hydrochloride (35.0 g, 126 mmol) in methanol (500 ml) was bubbled hydrogen chloride for 3 h. The solution was stirred at room temperature for 120 h and the solvent removed in vacuo. Addition of diethyl ether gave methyl 2-amino-3,3-diphenylpropanoate hydrochloride, m.p.=213°-215° C.(dec.). 1H NMR (360 MHz, DMSO-d6) δ8.70 (3H, vbs), 7.20-7.57 (10H, m), 4.94 (1H, d, J=11 Hz), 4.36 (1H, d, J=11 Hz), 3.39 (3H, s). m/z (CI+) 256(MH).

reactant | 2-amino-3,3-diphenylpropanoic acid hydrochloride | 126 mmol, 35.0 g | Cl.NC(C(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 500 ml | CO | CH4O
product | methyl 2-amino-3,3-diphenylpropanoate hydrochloride | Cl.NC(C(=O)OC)C(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C16H17NO2.ClH/c1-19-16(18)15(17)14(12-8-4-2-5-9-12)13-10-6-3-7-11-13;/h2-11,14-15H,17H2,1H3;1H
